US04542142
A methanolic N hydrochloric acid solution was added dropwise at 15° C. with stirring to a mixture of 1.5 g of α-cyano-3-phenoxy-benzyl (1R,cis,Z) 2,2-dimethyl-3-[3-oxo-3-hydroxy-1-propenyl]-cyclopropane-carboxylate solvated with one mole of acetic acid, 4.5 ml of dihydropyran and 10 ml of methylene chloride and the mixture was stirred at room temperature for 30 minutes. Calcium carbonate was added to the mixture which was then filtered. The filtrate was evaporated to dryness under reduced pressure and the residue was chromatographed over silica gel. Elution with an 8-2 hexaneether mixture yielded 1.07 g of α-cyano-3-phenoxy-benzyl (1R,cis,Z) 2,2-dimethyl-3-[3-oxo-3-(tetrahydropyran-2-yloxy)-1-propenyl]-cyclopropane-carboxylate with a specific rotation of [α]D20 =+47° (c=0.5% in benzene).

reactant | hydrochloric acid | Cl | ClH
reactant | α-cyano-3-phenoxy-benzyl (1R,cis,Z) 2,2-dimethyl-3-[3-oxo-3-hydroxy-1-propenyl]-cyclopropane-carboxylate | 1.5 g | CC1([C@@H]([C@@H]1\C=C/C(O)=O)C(=O)OC(C1=CC(=CC=C1)OC1=CC=CC=C1)C#N)C | C23H21NO5
reactant | acetic acid | one mole | C(C)(=O)O | C2H4O2
reactant | dihydropyran | 4.5 ml | O1CCCC=C1 | C5H8O
reactant | Calcium carbonate | C([O-])([O-])=O.[Ca+2]
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | α-cyano-3-phenoxy-benzyl (1R,cis,Z) 2,2-dimethyl-3-[3-oxo-3-(tetrahydropyran-2-yloxy)-1-propenyl]-cyclopropane-carboxylate | 1.07 g | CC1([C@@H]([C@@H]1\C=C/C(OC1OCCCC1)=O)C(=O)OC(C1=CC(=CC=C1)OC1=CC=CC=C1)C#N)C | C28H29NO6
